### PR TITLE
Add HashMap model

### PR DESCRIPTION
**Pull request by Vtec234**
This adds a function `Buckets.toListModel`. It models an array of buckets as a list of (key, value) pairs. We prove a number of lemmas about the behaviour of this model w.r.t. various map operations. No further propositions are proven in this PR, in particular it doesn't add any facts about the relations between user-facing HashMap operations just yet.

Depends on #89 and #272.

### CODE REVIEW

File: Std/Data/HashMap/Basic.lean [hunk 1]
```diff
@@ -80,28 +83,24 @@ A "load factor" of 0.75 is the usual standard for hash maps, so we return `capac
...
 
 /-- Constructs an empty hash map with the specified target capacity. -/
-def empty (capacity := 0) : Imp α β :=
-  let nbuckets := numBucketsForCapacity capacity
-  let n : {n : Nat // 0 < n} :=
-    if h : nbuckets = 0 then ⟨8, by decide⟩
-    else ⟨nbuckets, Nat.zero_lt_of_ne_zero h⟩
-  empty' n n.2
+def empty (capacity := 8) : Imp α β :=
+  let nBuckets := numBucketsForCapacity capacity |>.nextPowerOfTwo
```
Comment (Vtec234) [inline Std/Data/HashMap/Basic.lean:91]: Note that this changes the behaviour when `empty` is called with `capacity := 0`, but I restore it in the default case by setting `capacity := 8`.

File: Std/Logic.lean [hunk 2]
```diff
@@ -145,5 +158,8 @@ theorem subsingleton_of_forall_eq (x : α) (h : ∀ y, y = x) : Subsingleton α
 theorem subsingleton_iff_forall_eq (x : α) : Subsingleton α ↔ ∀ y, y = x :=
   ⟨fun _ y => Subsingleton.elim y x, subsingleton_of_forall_eq x⟩
 
+example [Subsingleton α] (p : α → Prop) : Subsingleton (Subtype p) :=
+  ⟨fun ⟨x, _⟩ ⟨y, _⟩ => by congr; exact Subsingleton.elim x y⟩
```
Comment (semorrison) [inline Std/Logic.lean:162]: Why is this an example?

File: Std/Logic.lean [hunk 3]
```diff
@@ -125,6 +125,19 @@ theorem ne_of_mem_of_not_mem' (h : a ∈ s) : a ∉ t → s ≠ t := mt fun e =>
 
 end Mem
 
+/-! ## Bool -/
+
+theorem Bool.beq_eq_false_iff [BEq α] {a a' : α} :
+    (a == a') = false ↔ a != a' := by
+  simp only [bne, not_eq_true']
+
+@[simp] theorem Bool.bne_eq_false_iff [BEq α] {a a' : α} :
```
Comment (semorrison) [inline Std/Logic.lean:134]: This will compete with
```
@[simp] theorem bne_eq_false_iff_eq [BEq α] [LawfulBEq α] (a b : α) :
```
in Lean.

File: Std/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -1123,6 +1123,13 @@ theorem map_drop {α β : Type u} (f : α → β) :
     dsimp
     rw [map_drop f t]
 
+theorem drop_ext (l₁ l₂ : List α) (j : Nat)
+    : (∀ i ≥ j, l₁.get? i = l₂.get? i) → l₁.drop j = l₂.drop j := by
```
Comment (semorrison) [inline Std/Data/List/Lemmas.lean:1127]:
```suggestion
theorem drop_ext (l₁ l₂ : List α) (j : Nat) : 
    (∀ i ≥ j, l₁.get? i = l₂.get? i) → l₁.drop j = l₂.drop j := by
```

**Comment by semorrison** [comment]
Could we split this up? I'd happily merge the Std/Data/List part immediately, and that then makes the rest easier.
